US05658923
Triethylamine 0.69 ml was added in a methylene chloride 20 ml solution of (1S)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride 0.78 g (4.1 mill), and stirred at 0° C. for 30 min. 2-adamantyl acetic acid 0.80 g (4.1 mill) and WSC 1.11 g (5.79 mill) were added therein, then temperature of the reaction mixture was gradually changed to room temperature and stirred for 23 hours. The reaction mixture was washed with saturated aqueous sodium chloride solution and dried by anhydrous sodium sulfate. After filtering the drying agent, the filtrate was concentrated in vacuo to obtain crude (1S)-3-(2-adamantylacetyl)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane. The concentrate was added to THF 50 ml solution of lithium aluminum hydride 0.47 g (12 mill) and refluxed for 2 hours. The reaction mixture was cooled, added water and filtered the insoluble material. The filtrate was concentrated in vacuo. The thus obtained residue was purified by means of silica gel column chromatography (Wako gel, C200, chloroform:acetone=10:1-5:1) to obtain the product.

reactant | Triethylamine | 0.69 ml | C(C)N(CC)CC | C6H15N
reactant | (1S)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride | 0.78 g | Cl.C[C@]12CNCC(CC1)C2(C)C
reactant | 2-adamantyl acetic acid | 0.80 g | C12C(C3CC(CC(C1)C3)C2)CC(=O)O | C12H18O2
reactant | WSC | 1.11 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (1S)-3-(2-adamantylacetyl)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane | C12C(C3CC(CC(C1)C3)C2)CC(=O)N2C[C@]3(CCC(C2)C3(C)C)C | C22H35NO
